US07659267B2
2-(4-Acetylphenyl)-4H-1,3-benzothiazin-4-one
A mixture of 4-acetylbenzonitrile (2.00 g, 14 mmol), methyl thiosalicylate (4.63 g, 28 mmol), triethylamine (2.79 g, 28 mmol) and toluene (10 ml) was heated and refluxed for 72 hours under a nitrogen flow. The reaction solution was concentrated under reduced pressure and the residue was applied to column chromatography using silica gel (100 g). Fractions eluted with hexane-ethyl acetate (3:1, v/v) were concentrated under reduced pressure. The residue was recrystallized from isopropyl ether to give the title compound (0.07 g, 2%) as crystals.

reactant | 4-acetylbenzonitrile | 14 mmol, 2.00 g | C(C)(=O)C1=CC=C(C#N)C=C1 | C9H7NO
reactant | methyl thiosalicylate | 28 mmol, 4.63 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 28 mmol, 2.79 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-Acetylphenyl)-4H-1,3-benzothiazin-4-one | 0.07 g, 2% | C(C)(=O)C1=CC=C(C=C1)C=1SC2=C(C(N1)=O)C=CC=C2 | C16H11NO2S
